US05360811
erythro N-[1-[5-(1-Dodecyl)-2-thienyl]-1,3-diacetoxy-2-propyl]acetamide
A solution of erythro N-[1-[5-(1-dodecyl)-2-thienyl]-1,3-dihydroxy-2-propyl]acetamide (12.0 g), acetic anhydride (19.2 g), triethylamine (28.4 g), and dimethylaminopyridine (0.4 g) in dry tetrahydrofuran (150 ml) was stirred at ambient temperature for 3 hrs. The reaction mixture was evaporated and the residue was dissolved in chloroform. The solution was washed with water, dried, filtered, and the filtrate was evaporated. The residue was dried to give 13.6 g (93.5%) of product, mp 105°-107° C.

reactant | N-[1-[5-(1-dodecyl)-2-thienyl]-1,3-dihydroxy-2-propyl]acetamide | 12.0 g | C(CCCCCCCCCCC)C1=CC=C(S1)C(C(CO)NC(C)=O)O | C21H37NO3S
reactant | acetic anhydride | 19.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 28.4 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.4 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-[1-[5-(1-Dodecyl)-2-thienyl]-1,3-diacetoxy-2-propyl]acetamide | 13.6 g, 93.5% | C(CCCCCCCCCCC)C1=CC=C(S1)C(C(COC(C)=O)NC(C)=O)OC(C)=O | C25H41NO5S
